US05283248
1-Ethyl-5-fluoro-6-(4-methyl-1-piperazinyl)-2-benzimidazoleacetonitrile (834 mg, 2.77 mmol) is dissolved in pyridine (20 ml) and triethylamine (2.8 g, 27.7 mmol). The solution is cooled to 0°. Subsequently, hydrogen sulfide is introduced during 30 minutes. The thus-obtained deep green solution is heated to 45° for 2 hours. The solvent is distilled off and the residue is dried in a high vacuum and then crystallized from acetonitrile. The crystals are filtered off, dissolved in an ethyl acetate/methanol mixture (10 ml, 1:1) and then chromatographed on silica gel (eluent: ethyl acetate/methanol 6:4). The product is recrystallized from ethyl acetate. There are obtained 745 mg (80%) of 1-ethyl-5-fluoro-6-[4-methyl-1-piperazinyl]-2-benzimidazolecarbothioamide.

reactant | 1-Ethyl-5-fluoro-6-(4-methyl-1-piperazinyl)-2-benzimidazoleacetonitrile | 2.77 mmol, 834 mg | C(C)N1C(=NC2=C1C=C(C(=C2)F)N2CCN(CC2)C)CC#N | C16H20FN5
reactant | triethylamine | 27.7 mmol, 2.8 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-5-fluoro-6-[4-methyl-1-piperazinyl]-2-benzimidazolecarbothioamide | 745 mg, 80% | C(C)N1C(=NC2=C1C=C(C(=C2)F)N2CCN(CC2)C)C(N)=S | C15H20FN5S
